US09376396B2
1.2 trans-4-(2-{4-[2-tert-Butyl-6-(2-methoxy-ethyl)-pyrimidin-4-yl]-piperazin-1-yl}-ethyl)-cyclohexylamine
Trans-[4-(2-{4-[2-tert-Butyl-6-(2-methoxy-ethyl)-pyrimidin-4-yl]-piperazin-1-yl}-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester (900 mg, 1.680 mmol) was dissolved in 4 M HCl/MeOH (25 ml). The resulting solution was stirred at about 25° C. for about 16 h. The solvent was removed under reduced pressure to provide the title compound (690 mg, 1.539 mmol, 92% yield) as a colorless solid, which was used in the next step without further purification.

reactant | Trans-[4-(2-{4-[2-tert-Butyl-6-(2-methoxy-ethyl)-pyrimidin-4-yl]-piperazin-1-yl}-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester | 1.680 mmol, 900 mg | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CCN1CCN(CC1)C1=NC(=NC(=C1)CCOC)C(C)(C)C)=O | C28H49N5O3
solvent | HCl MeOH | 4 M, 25 ml | Cl.CO
product | trans-4-(2-{4-[2-tert-Butyl-6-(2-methoxy-ethyl)-pyrimidin-4-yl]-piperazin-1-yl}-ethyl)-cyclohexylamine | 1.539 mmol, 690 mg, 92% yield | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CC[C@@H]1CC[C@H](CC1)N)CCOC | C23H41N5O
